Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization with DES placed to RCA
 
History of Present Illness:
___ CAD s/p NSTEMI with PCI of the LAD and RCA in ___, 
hypertension, hyperlipidemia, and diabetes presenting with 2 
days of worsening shortness of breath that acutely worsened this 
morning. Pt states she initially had shortness of breath two 
days ago that lasted a few minutes and went away on its own.  
She went to ___ where there was concern for cardiac 
etiology of her SOB.  Last night, the pt was unable to fall 
sleep, describing PND like symptoms.  Around 2am she felt severe 
shortness of breath, unable to complete sentences, felt like she 
was going to die.  She denied chest pain or discomfort which 
notably she had during her NSTEMI in ___.  She called EMS. The 
patient was found by EMS in acute respiratory distress, 
tripoding and diaphoretic. She was hypertensive to be 200s/100s 
systolic. She was placed on CPAP immediately and an inch of 
nitro paste was placed. She improved significantly.

In the ED,initial VS were HR 114 BP 181/84 RR 18 96% RA.   Pt 
was started on nitro drip. EKG demonstrated LBBB. Chest x-ray 
consistent with mild pulmonary edema. Patient given 325 mg 
aspirin and 10 mg IV Lasix. Pt put out 1300cc. Pt no longer on 
CPAP.  Pt given home quinapril and metoprolol in the ED. 

On the floor, pt feels well.  States miraculous improvement 
compared to how she felt previously.  Notes that she has no 
history of heart failure, swelling.  Notes 6 pound weight gain 
over past 2 months after shoulder surgery.  Endorses eating 
salty foods.  Also endorses antihypertensive noncomplicance.  
Denies fevers/chills, recent illness.  Pt states her typical 
blood pressures are in the 140s-150s.
 
Past Medical History:
Type 2 diabetes  
Hypertension
CAD: cardiac catheterization on ___ showed three vessel 
disease involving her LAD, right coronary, and circumflex  
coronary artery. The patient received percutaneous transluminal 
coronary angioplasties to the LAD and right coronary artery as 
well as one stent to the mid LAD lesion of 90% and two stents to 
the proximal right coronary artery with no complications. During 
this cardiac catheterization, through left ventriculography, the 
patient's ejection fraction was noted to be 25% with evidence of 
anterolateral akinesis and otherwise hypokinetic globally. A 
repeat cath in ___ showed no significant stenoses.  
Hyperlipidemia  
Rheumatoid Arthritis  
Asthma  
Paget disease of the nipple in ___, s/p resection of nipple-  

areolar complex and radiation treatments  
Cholecystectomy  
Mild transaminitis and u/s consistent with NASH in ___
 
Social History:
___
Family History:
Father suffered his first myocardial infarction at the age of 
___. He died from a myocardial infarction at the age of ___. Her 
mother had a pacemaker inserted  
at the age of ___ and died at the age of ___.  

 
Physical Exam:
Admission Physical
=======================
VS: T=Afebrile BP= 142/70 HR= 83 RR= 16 O2 sat= 97% RA 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
NECK: Supple JVP difficult to discern, 12-14 cm H20.  
CARDIAC: Distant heart sounds, nL S1 and S2, no m/r/g 
LUNGS: CTAB  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: 1+ pitting edema to the level of the thigh  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.

Discharge Physical
====================
O: 98.6 97.7 ___ 18 100%RA  
Wt 89.6kg from 89.8kg yesterday. 92.1kg on admission  
I/O: nothing recorded since midnight, ___ yestserday  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
NECK: Supple JVP difficult to discern but appears mid neck while 
seated upright  
CARDIAC: Intermittent split S1, no m/r/g  
LUNGS: bibasilar crackles  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: no pitting edema  
 
Pertinent Results:
Admission Labs
===============
___ 04:45AM BLOOD WBC-12.6*# RBC-3.58* Hgb-10.8* Hct-35.0* 
MCV-98 MCH-30.3 MCHC-31.0 RDW-13.0 Plt ___
___ 04:45AM BLOOD Neuts-84.7* Lymphs-9.5* Monos-3.6 Eos-1.7 
Baso-0.6
___ 04:45AM BLOOD ___ PTT-26.5 ___
___ 04:45AM BLOOD Glucose-419* UreaN-31* Creat-1.3* Na-138 
K-4.3 Cl-99 HCO3-26 AnGap-17
___ 04:45AM BLOOD Calcium-9.0 Phos-4.4 Mg-1.9

Cardiac Enzymes
=================
___ 04:45AM BLOOD CK-MB-3 proBNP-2512*
___ 04:45AM BLOOD cTropnT-<0.01
___ 07:44PM BLOOD CK-MB-9 cTropnT-0.29*
___ 04:05AM BLOOD CK-MB-6 cTropnT-0.21*
___ 07:20AM BLOOD cTropnT-0.34*

Lactate
==========
___ 05:00AM BLOOD Lactate-3.1*
___ 04:16AM BLOOD Lactate-1.3

Discharge Labs
=================
___ 07:11AM BLOOD WBC-5.6 RBC-3.17* Hgb-9.8* Hct-31.2* 
MCV-99* MCH-31.0 MCHC-31.5 RDW-13.6 Plt ___
___ 07:11AM BLOOD Glucose-182* UreaN-24* Creat-1.4* Na-141 
K-5.0 Cl-102 HCO3-29 AnGap-15
___ 07:11AM BLOOD Calcium-9.3 Phos-4.4 Mg-2.0

Urinalysis
============
___ 05:48AM URINE Color-Straw Appear-Hazy Sp ___
___ 05:48AM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM 
___ 05:48AM URINE RBC-1 WBC-5 Bacteri-FEW Yeast-NONE Epi-<1

Microbiology
=============
___ 5:48 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION.

Imaging
==========
EKG ___
Baseline artifact. Sinus rhythm. Left atrial abnormality. Left 
bundle-branch block. Slow R wave progression in this context is 
non-diagnostic, as are ST-T wave abnormalities. Compared to the 
previous tracing of ___ heart rate is not as fast.  

Chest Xray ___
IMPRESSION:  Diffuse bilateral interstitial abnormality 
consistent with mild pulmonary edema or atypical pneumonia. 
Moderate cardiomegaly. 
The study and the report were reviewed by the staff radiologist. 


ECHO ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is mildly 
dilated. Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is mildly depressed (LVEF= 40-45 
%). The estimated cardiac index is normal (>=2.5L/min/m2). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. No mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is an 
anterior space which most likely represents a prominent fat pad. 


IMPRESSION: Suboptimal image quality. Mild left ventricular 
cavity dilation with mild reduction in systolic function. Cannot 
exclude regional variation given poor acoustic windows. Normal 
right ventricular cavity size and systolic function. 
Compared with the prior study (images reviewed) of ___, 
the left ventricular cavity is now mildly dilated. The other 
findings are similar.

EKG ___
Sinus rhythm. Left bundle-branch block. Compared to the previous 
tracing  
of ___ there are no significant changes.

Cardiac Cath ___
Findings
ESTIMATED blood loss: 5 cc
Hemodynamics (see above): BP very labile during procedure
Coronary angiography:  right dominant
LMCA: 
LAD:  40% mid with patent stent
LCX:  long 60% mid
RCA:  40% ostial in-stent restenosis, 80% mid
 
Brief Hospital Course:
___ yo woman with CAD s/p  Velocity and ___ stents in ___ to 
the ostial and proximal RCA and mid LAD who presents in 
hypertensive emergency and LBBB (last seen in ___.

# NSTEMI - Patient noted to have troponin elevations in the 
setting of hypertensive emergency. She did not endorse any chest 
discomfort consistent with her prior MI in ___. She did have 
elevated troponin levels and an LBBB that had been noted in the 
past but not on most recent previous EKGs. She underwent cardiac 
catheterization which demonstrated an 80% lesion in the mid-RCA 
and a drug-eluting stent was placed.  Her echocardiogram 
demonstrated mild left ventricular dilation and systolic 
dysfunction. It was thought that this NSTEMI could be related to 
a demand event; however, given her persistent LBBB and troponin 
elevation, along with RCA lesion it was possible that she had a 
ischemic event. Her new medications were full dose atorvastatin, 
carvedilol, clopidogrel. Her simvastatin was discontinued, as 
was her metoprolol for these favored medications. Her quinapril 
was increased to 80mg daily from 40mg.
- She was setup with close follow up recommendation with her PCP 
and cardiologist.

# Hypertensive emergency: Patient presented in pulmonary edema 
in setting of hypertension. Given on and off symptoms past few 
days concerning for unstable angina especially with prior 
history of CAD. It was unclear what led to hypertensive 
emergency but patient states that she is not always compliant 
with her blood pressure medications, but even when she is 
compliant her BPs are in the 140s-150s. To control her blood 
pressure she was switched from metoprolol to carvedilol. Her 
quinapril was increased to 80mg daily from 40mg daily. On day of 
discharge her blood pressure maximum was 150s/80s, but primarily 
had been in the 120s/70s
- She should have her blood pressure closely monitored and 
medications adjust as needed for systolic blood pressure <130s.

# Acute on chronic systolic and diastolic dysfunction: This was 
from her hypertensive crisis. Patient was volume overloaded on 
admission with BNP of 2512. She was diuresed during her stay. On 
discharge her weight was 89.6kg from a weight of 92.1kg. She was 
sent home on a new diuretic of torsemide 10mg daily.

# LBBB: Patient has been noted previously to have intermittend 
LBBB. Last noted in ___. ECG without concordance. With symptoms 
of SOB concerning for anginal equivalent. As described above she 
underwent cath with intervention.

# UTI: Patient complained of dysuria. Her UA showed bacteria, 
wbcs, and leukocyte esterase positive. She was started on 
ciprofloxacin. Her UTI was pending at discharge. She was given a 
script to complete a seven day course of antibiotics.

# Elevated lactate: Function of distress from pulmonary edema. 
She improved to normal when her hemodynamics were well 
controlled.

# Diabetes mellitus type 2, uncontrolled. Her oral 
anti-hyperglyemics were switched to SQ insulin. She was 
continued on 10U of lantus nightly. Her glucose remained well 
controlled.

# Hyperlipidemia: Pt with good lipid panel on simvastatin 10 mg, 
but given secondary prevention, and NSTEMI her atorvastatin was 
increased to 80 mg

# CKD: Creatinine ranges from ___. She presented initially 
with mild volume overload. She was gently diuresed during her 
stay and her kidney function remained stable at baseline.

# Hypothyroidism: She appeared euthyroid and she was continued 
on Levothyroxine 125 mcg daily.

# Psoriatic arthritis: She was off treatment and had no symptoms
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE 10 mg PO BID 
2. Levemir 10 Units Bedtime
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. linagliptin 5 mg oral Daily 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Quinapril 40 mg PO DAILY 
8. Simvastatin 10 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Levemir 10 Units Bedtime
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
6. Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
7. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. GlipiZIDE 10 mg PO BID 
9. linagliptin 5 mg oral Daily 
10. MetFORMIN (Glucophage) 500 mg PO BID 
11. Quinapril 80 mg PO DAILY 
RX *quinapril [Accupril] 40 mg 2 tablet(s) by mouth daily Disp 
#*60 Tablet Refills:*0
12. Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin 250 mg 1 tablet(s) by mouth twice a day Disp 
#*13 Tablet Refills:*0
13. Torsemide 10 mg PO DAILY 
RX *torsemide 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- NSTEMI
- Hypertensive urgency
- Pulmonary Edema

Secondary Diagnosis
- Hypertension
- Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was our pleasure caring for you at ___ 
___. You were admitted with shortness of breath. You 
were found to have fluid in your lungs and a very high blood 
pressure. You also had a heart attack. We were able to put a 
stent in your artery, which already has a stent in a different 
location. You were found to have a urinary tract infection and 
were started on an antibiotic please take this through ___.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs. Please limit the amount of salt you eat. Please 
check your blood pressure daily, good blood pressures are less 
than 140/90. Please call ___ to make an appointment 
for cardiac rehab. You can also discuss this with Dr. ___.
 
Followup Instructions:
___